US07262212B2
4-chlorobenzyl alcohol (3.00 g, 21.0 mmol) and triphosgene (3.12 g, 10.5 mmol) were dissolved in toluene (15 ml), to which N-ethyldiisopropylamine (3.6 ml, 21.0 mmol) was added while cooling in an ice-bath, and the mixture was stirred for 1 hour. The reaction mixture was poured into water, and extracted with methylene chloride twice. The extracts were combined and dried over magnesium sulfate, and then filtered. The filtrate was concentrated under a reduced pressure. A solution of 2-methallylamine hydrochloride (2.49 g, 23.1 mmol) in water (40 ml) were added to the residue, to which sodium carbonate (5.15 g, 48.6 mmol) was added under while cooling in an ice-bath, and the mixture was stirred for 15 minutes. The reaction mixture was extracted with methylene chloride twice, and the extracts were combined, dried over magnesium sulfate, and then filtered, and the filtrate was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=10/1) to afford 4-chlorobenzyl N-(2-methyl-2-propenyl)carbamate (4.06 g, yield 80%) as a colorless liquid.

reactant | 4-chlorobenzyl alcohol | 21.0 mmol, 3.00 g | ClC1=CC=C(CO)C=C1 | C7H7ClO
reactant | triphosgene | 10.5 mmol, 3.12 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | N-ethyldiisopropylamine | 21.0 mmol, 3.6 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | sodium carbonate | 48.6 mmol, 5.15 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 40 ml | O | H2O
product | 4-chlorobenzyl N-(2-methyl-2-propenyl)carbamate | 4.06 g, yield 80% | CC(CNC(OCC1=CC=C(C=C1)Cl)=O)=C | C12H14ClNO2
